US07220775B2
2-[4-(3-METHOXYBENZYL)-1-PIPERAZINYL]-N4-(3-METHOXYPHENYL)-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE
A solution of N4-(3-methoxyphenyl)-N6,N6-dimethyl-2-(1-piperazinyl)-4,6-pyrimidinediamine (36 mg, 0.1 mmol), DIPEA (52 mg, 0.4 mmol), and 1-(chloromethyl)-3-methoxybenzene (20 mg, 0.13 mmol) in 5 mL of dioxane was stirred at 100° C. for 16 h. The crude product was concentrated in vacuo and treated with saturated NaHCO3 (50 mL) and extracted with CH2Cl2 (3×50 mL). The organic layer was washed with brine (2×100 mL), dried over Na2SO4, and concentrated in vacuo. The crude product was purified by chromatography on silica using hexane/EtOAc (1:3), giving the desired product (32 mg, 70%).

reactant | N4-(3-methoxyphenyl)-N6,N6-dimethyl-2-(1-piperazinyl)-4,6-pyrimidinediamine | 0.1 mmol, 36 mg | COC=1C=C(C=CC1)NC1=NC(=NC(=C1)N(C)C)N1CCNCC1 | C17H24N6O
reactant | DIPEA | 0.4 mmol, 52 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(chloromethyl)-3-methoxybenzene | 0.13 mmol, 20 mg | ClCC1=CC(=CC=C1)OC | C8H9ClO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-[4-(3-METHOXYBENZYL)-1-PIPERAZINYL]-N4-(3-METHOXYPHENYL)-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE | 32 mg, 70% | COC=1C=C(CN2CCN(CC2)C2=NC(=CC(=N2)NC2=CC(=CC=C2)OC)N(C)C)C=CC1 | C25H32N6O2
